US04312876
(cis-1-cyclopropylcarbonyl-4-(4-fluorophenoxy)-3-phenylpiperidine hemihydrate
To a stirred mixture of 1.1 g of trans-1-cyclopropylcarbonyl-3-phenyl-4-piperidinol, 1.3 g of triphenylphosphine, 0.55 g of p-fluorophenol and 23 ml of dry benzene is added dropwise at 4° C. under nitrogen a solution of 0.86 g of diethyl azodicarboxylate in 23 ml of benzene. After stirring overnight at room temperature the solid is filtered off, washed well with benzene, and the filtrate concentrated in vacuo to a gum. The gum is taken up in about 25 ml of ether and the solution kept in a stoppered flask overnight. The colorless crystals which formed are filtered, washed well with ether, and the filtrate is diluted with ether to a volume of 50 ml. The solution is washed with 10% sodium hydroxide solution (2×10 ml) and 20 ml of saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to an oil weighing 2.27 g. This material is chromatographed on 115 g of silica gel, using ether as solvent. The product is obtained as a colorless oil which partially crystallized under high vacuum. The oily material is dissolved in about 20 ml of boiling cyclohexane and filtered hot. The filtrate is allowed to cool and stand at room temperature for 3 days, cooled and filtered to give product as a colorless solid, mp 84°-87° C. (softens 82° C.).

reactant | trans-1-cyclopropylcarbonyl-3-phenyl-4-piperidinol | 1.1 g | C1(CC1)C(=O)N1C[C@H]([C@@H](CC1)O)C1=CC=CC=C1 | C15H19NO2
reactant | triphenylphosphine | 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | p-fluorophenol | 0.55 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | diethyl azodicarboxylate | 0.86 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 23 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 23 ml | C1=CC=CC=C1 | C6H6
product | cis-1-cyclopropylcarbonyl-4-(4-fluorophenoxy)-3-phenylpiperidine hemihydrate | O.C1(CC1)C(=O)N1C[C@H]([C@H](CC1)OC1=CC=C(C=C1)F)C1=CC=CC=C1.C1(CC1)C(=O)N1C[C@H]([C@H](CC1)OC1=CC=C(C=C1)F)C1=CC=CC=C1 | InChI=1S/2C21H22FNO2.H2O/c2*22-17-8-10-18(11-9-17)25-20-12-13-23(21(24)16-6-7-16)14-19(20)15-4-2-1-3-5-15;/h2*1-5,8-11,16,19-20H,6-7,12-14H2;1H2/t2*19-,20-;/m00./s1
